US06087380
d) 2-Methoxymethyl-thiazolo[5,4-b]pyridin-6-yl-carboxylic acid
A mixture of 1.1 g (4.62 mMol) of methyl 2-methoxymethyl-thiazolo[5,4-b]pyridine-6-carboxylate and 9.2 ml of 2N sodium hydroxide solution were stirred into 50 ml of ethanol for one hour at room temperature. Then 9.2 ml of 2N hydrochloric acid were added, the alcohol was distilled off, and it was diluted with 20 ml of water. The aqueous phase was acidified with concentrated hydrochloric acid whilst cooling with ice, the beige precipitate formed was filtered off, then washed with water and dried. Yield: 1.03 g (100% of theory), Rf value: 0.10 (silica gel; ethyl acetate/petroleum ether=3:7)

reactant | methyl 2-methoxymethyl-thiazolo[5,4-b]pyridine-6-carboxylate | 4.62 mMol, 1.1 g | COCC=1SC2=NC=C(C=C2N1)C(=O)OC | C10H10N2O3S
reactant | sodium hydroxide | 2N, 9.2 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 9.2 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Methoxymethyl-thiazolo[5,4-b]pyridin-6-yl-carboxylic acid | COCC=1SC2=NC=C(C=C2N1)C(=O)O | C9H8N2O3S
